US05703273
Dimethylphosphite (36 g, 0.3227 mole) was added dropwise over a period of 1 hour to a stirring solution of paraformaldehyde (9.8 g, 0.32 mole) and ethanolamine (20 g, 0.32 mole) below 20° C. under nitrogen. The solution was heated to 80° C. for 1 hour and then cooled to room temperature. The solution was extracted with 350 ml of benzene as described in the paper. The benzene solution was then passed through a column containing 1 kg of alumina and the column was eluted with 1 liter of benzene. The benzene solution was concentrated under vacuum to dryness and 250 mL of Conc. HCl was added. The solution was heated to 110° C. for 6 hours. Analysis of the reaction mixture by 31P-NMR showed 0% yield of N-(2-hydroxyethyl)aminomethylphosphonic acid. This Example demonstrates that contrary to what is disclosed in the Barsukov et al reference, the process taught in the Barsukov et al reference produces no N-(2-hydroxyethyl)aminomethylphosphonic acid.

reactant | Dimethylphosphite | 0.3227 mole, 36 g | COP(OC)[O-]
reactant | paraformaldehyde | 0.32 mole, 9.8 g | C=O | CH2O
reactant | ethanolamine | 0.32 mole, 20 g | C(O)CN | C2H7NO
product | N-(2-hydroxyethyl)aminomethylphosphonic acid | 0% yield | OCCNCP(O)(O)=O | C3H10NO4P
